US07015218B1
1-(4-Chlorophenyl)-N-[3-cyano-4-[4-(2-methoxyethyl)piperazin-1-yl]phenyl]-5-methylpyrazole-4-carboxamide
By the reaction and treatment in the same manner as in Example 150 using 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic chloride (0.8 g) and 5-amino-2-[4-(2-methoxyethyl)piperazin-1-yl]benzonitrile (0.8 g), the title compound (0.7 g) was obtained, melting point: 207° C.

reactant | 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic chloride | 0.8 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)Cl | C11H8Cl2N2O
reactant | 5-amino-2-[4-(2-methoxyethyl)piperazin-1-yl]benzonitrile | 0.8 g | NC=1C=CC(=C(C#N)C1)N1CCN(CC1)CCOC | C14H20N4O
product | 1-(4-Chlorophenyl)-N-[3-cyano-4-[4-(2-methoxyethyl)piperazin-1-yl]phenyl]-5-methylpyrazole-4-carboxamide | 0.7 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)NC1=CC(=C(C=C1)N1CCN(CC1)CCOC)C#N | C25H27ClN6O2
